multisource_5R_network - fault test
V1 A 0 DC 10
V2 B 0 DC 15
I1 0 C DC 5
R1 A 0 2003.991507
C2 A B 6.69e-06
R3 A C 993.306645
R4 B C 1494.934991
R5 C 0 4034.851238
.op
.control
run
print v(A) v(B) v(C)
print @r1[i] @r3[i] @r4[i] @r5[i]
print @i1[i]
.endc
.end
